US06699867B2
A solution under inert atmosphere of 3.27 g of methyl (acetylamino)-3-(4-methyl-piperazin-1-yl)propanoate in 100 mL of anhydrous methanol is cooled at a temperature of about 10° C., then 0.76 g of sodium borohydride are added using a spatula. The reaction medium is stirred for 5 hours at a temperature of about 20° C., then are added again 0.26 g of sodium borohydride and the stirring is carried out for 38 hours. Then, 5 mL of water is dropped into the reaction mass which is heated and concentated under reduced pressure (2 kPa) at a temperature of about 30° C. The obtained residue is taken up with dichloromethane and the insoluble matter is removed by filtration. The filtrate is concentrated under reduced pressure (2 kPa) at a temperature of about 20° C. The residue is purified by chromatography under argon pressure (60 kPa), on a column of silica gel (particle size 40-63 μm; diameter 5 cm; height 19 cm), eluting with successive mixtures of 20% dichloromethane/methanol/aqueous ammonia (98/2/0, 95/5/0.1, 90/10/0.2, 80/20/0.25, 50/50/0.25 by volume). The fractions containing the expected product are combined and concentrated under reduced pressure (2 kPa) at a temperature of about 40° C. About 0.92 g of N-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl] acetamide are obtained in the form of a yellow-colored liquid. [Infrared spectrum CH2Cl2 3621; 3429; 3352; 2944; 2803; 1657; 1513; 1460; 1284; 1050; 1011 and 816 cm−1].

reactant | methyl (acetylamino)-3-(4-methyl-piperazin-1-yl)propanoate | 3.27 g | C(C)(=O)NC(C(=O)OC)CN1CCN(CC1)C | C11H21N3O3
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
reactant | water | 5 mL | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
product | N-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl] acetamide | 0.92 g | OCC(CN1CCN(CC1)C)NC(C)=O | C10H21N3O2
